.SubCkt GR455DR73D103KW01 _net1 _net2
.param K01=9.9998e-09
.param M01=6.0000e+09
.param L02=1.6214e-11
.param M03=4.2714e-02
.param K04=6.0165e-07
.param M04=3.3303e+00
.param K05=9.0732e-07
.param M05=2.5134e-01
.param K06=8.8942e-07
.param M06=5.8770e-02
.param K07=3.5232e-07
.param M07=2.7654e-02
.param L08=9.0647e-11
.param M08=2.3500e-01
.param K09=1.5071e-08
.param L09=7.6947e-11
.param M09=2.2572e-01
.param K10=8.3784e-09
.param L10=4.0590e-11
.param M10=2.1457e-01
.param K11=8.3053e-12
.param L11=4.7616e-10
.param M11=4.4014e+01
.param K12=1.3125e-11
.param L12=1.7316e-10
.param M12=1.1920e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
L08 _net0708 _net0809 'L08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net1011 'K10'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
C11 _net1011 _net1112 'K11'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net2 'K12'
L12 _net1112 _net2 'L12'
R12 _net1112 _net2 'M12'
.ends 
